US06040432
a) α-Aminolauric acid isopropyl ester
50 ml of isopropanol is stirred at 0° C. under argon and mixed drop by drop with 3.12 ml (41.6 mmol) of thionyl chloride. 30 minutes later, 7.40 g (34.4 mmol) of α-aminolauric acid is added in portions, stirred for one hour at room temperature and the batch then is allowed to reflux for two hours. After cooling off to room temperature, the batch is completely concentrated by evaporation, the residue is taken up in tert-butyl methyl ether and shaken out from aqueous sodium carbonate solution. The organic phase is dried on magnesium sulfate, filtered and concentrated by evaporation.

reactant | thionyl chloride | 41.6 mmol, 3.12 ml | S(=O)(Cl)Cl | Cl2OS
reactant | α-aminolauric acid | 34.4 mmol, 7.40 g | NC(C(=O)O)CCCCCCCCCC | C12H25NO2
reactant | isopropanol | 50 ml | C(C)(C)O | C3H8O
product | α-Aminolauric acid isopropyl ester | C(C)(C)OC(C(CCCCCCCCCC)N)=O | C15H31NO2
